US08703979B2
Step 1 in the above Scheme B may be, for example, carried out according to Tietze, et al., Chem. Eur. J., 2007, 13, 9939-9947. For example, to 5-hydroxynaphthalene-1,4-dione dissolved in an appropriate solvent is added bromine to give 3-bromojuglone in Step 1.

reactant | 5-hydroxynaphthalene-1,4-dione | OC1=C2C(C=CC(C2=CC=C1)=O)=O | C10H6O3
reactant | bromine | BrBr | Br2
product | 3-bromojuglone | C1=CC2=C(C(=C1)O)C(=O)C(=CC2=O)Br | C10H5BrO3
